US03971806
3-(Indol-3-ylthio)crotonic acid
By the same method as described in Example 1, 0.2 mole each of 3-mercaptoindole and tetrolic acid gives 10.2 g of product after recrystallization for acetonitrile, mp 201°-202°C.

reactant | 3-mercaptoindole | 0.2 mole | SC1=CNC2=CC=CC=C12 | C8H7NS
reactant | tetrolic acid | C(C#CC)(=O)O | C4H4O2
product | 3-(Indol-3-ylthio)crotonic acid | 10.2 g | N1C=C(C2=CC=CC=C12)S\C(=C/C(=O)O)\C | C12H11NO2S
